US08067408B2
3-{[({3′-[(1-Methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)amino]sulfonyl}benzoic Acid
To a solution of 1-{3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methanamine (0.0589 g, 0.2 mmol) in DCM (2 mL) was added TEA (0.0606 mL, 0.4 mmol) and then 3-(chlorosulfonyl)benzoic acid (0.0441 g, 0.2 mmol) whereupon the reaction was stirred at room temperature for 17 h. The reaction mixture was concentrated on a Glas-Col evaporator, purified using a Gilson HPLC (with 0.1% TFA), and concentrated to afford 0.0861 g (57%) of the title compound. LC-MS m/z 479 (M+H)+.

reactant | 1-{3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methanamine | 0.2 mmol, 0.0589 g | CN1CCC(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1)CN | C20H26N2
reactant | 3-(chlorosulfonyl)benzoic acid | 0.2 mmol, 0.0441 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-{[({3′-[(1-Methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)amino]sulfonyl}benzoic Acid | 0.0861 g, 57% | CN1CCC(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1)CNS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C27H30N2O4S
